* source EXP1
X_U1         0 N00213 VCC VDD VO uA741
V_V1         N00206 0  AC 0
+SIN 0 0.5 10k 0 0 0
R_R1         N00206 N00213  3k TC=0,0 
V_V2         VDD 0 -12Vdc
V_V3         VCC 0 12Vdc
R_Rf         N00213 VO  150k TC=0,0 
